US04282242
5-(2,4,5-Trichlorophenylthio)pyrrole-3-carboxylic Acid
Methyl 5-(2,4,5-trichlorophenylthio)pyrrole-3-carboxylate (2.1 g.) was combined with 20 ml. of methanol and 20 ml. of 1 N sodium hydroxide and heated to reflux. Additional 1 N sodium hydroxide was added in an amount sufficient to obtain a solution. Reflux was continued for 2.5 hours, the methanol was then allowed to evaporate, and the aqueous residue was diluted with approximately one volume of water and extracted twice with ether. The aqueous phase was cooled in an ice-water bath and acidified with conc. hydrochloric acid. Crude product (1.65 g., m.p. 210°-215° C.) was recovered by filtration. Recrystallization from methanol/water afforded purified 5-(2,4,5-trichlorophenylthio)pyrrole-3-carboxylic acid (1.01 g., m.p. 215°-217° C.).

reactant | Methyl 5-(2,4,5-trichlorophenylthio)pyrrole-3-carboxylate | 2.1 g | ClC1=C(C=C(C(=C1)Cl)Cl)SC1=CC(=CN1)C(=O)OC | C12H8Cl3NO2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 5-(2,4,5-Trichlorophenylthio)pyrrole-3-carboxylic Acid | ClC1=C(C=C(C(=C1)Cl)Cl)SC1=CC(=CN1)C(=O)O | C11H6Cl3NO2S
